US06040446
7B. Preparation of 1-Benzyloxy-3-chloro-2-(propionyloxy) methoxypropane
204.0 g of 3-benzyloxy-1-chloro-2-propanol, 660 ml of hexane, 626.3 g of methoxymethyl propionate and 5.79 g of p-toluenesulfonic acid mono-hydrate were placed into a 2-liter 3-neck round bottom flask equipped with a thermometer, mechanical stirrer, nitrogen inlet and an efficient distillation column. The reaction mixture was heated to reflux. The distillate was taken off at about 10:1 to 15:1 reflux ratio keeping the head temperature below 60° C. Samples were taken to monitor the progress of the reaction. The reaction was quenched when the desired level of methyl acetal was reached which is usually less than about 4% methyl acetal. The quench was carried out by rapidly adding a solution of 11.55 g of sodium carbonate in 310 ml of water directly to the hot reaction mixture. The aqueous layer was washed with additional water and/or base to remove any residual propionic acid. The volatiles were removed to leave the crude product as a mobile liquid. Yield: 285.2 g, (97.8%); 92.6% pure.

reactant | 3-benzyloxy-1-chloro-2-propanol | 204.0 g | C(C1=CC=CC=C1)OCC(CCl)O | C10H13ClO2
reactant | methoxymethyl propionate | 626.3 g | C(CC)(=O)OCOC | C5H10O3
reactant | p-toluenesulfonic acid mono-hydrate | 5.79 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | hexane | 660 ml | CCCCCC | C6H14
product | 1-Benzyloxy-3-chloro-2-(propionyloxy) methoxypropane | C(C1=CC=CC=C1)OCC(CCl)OCOC(CC)=O | C14H19ClO4
